US03953500
To 60 ml. of 60% sulfuric acid is added 3.0 g. of 4-(p-chlorobenzyl)indan-1-carbonitrile and the mixture is refluxed in a current of nitrogen gas for 2 hours. After cooling, water is added and the mixture is extracted with ether. The ethereal solution is washed with water and extracted with a 5 % aqueous solution of potassium carbonate. The extract is rendered acidic with hydrochloric acid and the resultant precipitate is extracted with chloroform. The chloroform layer is washed with water and dried. The solvent is distilled off under reduced pressure and the residue is crystallized from cyclohexane. The described procedure gives 4-(p-chlorobenzyl)indan-1-carboxylic acid as crystals melting at 127°-129°C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-(p-chlorobenzyl)indan-1-carbonitrile | ClC1=CC=C(CC2=C3CCC(C3=CC=C2)C#N)C=C1 | C17H14ClN
reactant | water | O | H2O
product | 4-(p-chlorobenzyl)indan-1-carboxylic acid | ClC1=CC=C(CC2=C3CCC(C3=CC=C2)C(=O)O)C=C1 | C17H15ClO2
